US09056859B2
To a flask charged with 4,5-dibromo-2-benzofuran-1(3H)-one (170 mg, 0.59 mmol) and a stir bar was added allyl tri-n-butyltin (0.18 mL, 0.59 mmol), palladium tetrakis (68 mg, 0.059 mmol), lithium chloride (50 mg, 1.2 mmol), and toluene (5 mL). The mixture was sealed with a condensor, purged three times with nitrogen, and heated to reflux for 16 hours. The reaction was diluted with EtOAc (50 mL), adsorbed onto silica gel, and purified by silica gel flash chromatography to afford 5-allyl-4-bromo-2-benzofuran-1(3H)-one. LC-MS (IE, m/z): 253 [M+1]+;

reactant | 4,5-dibromo-2-benzofuran-1(3H)-one | 0.59 mmol, 170 mg | BrC1=C(C=CC=2C(OCC21)=O)Br | C8H4Br2O2
reactant | allyl tri-n-butyltin | 0.59 mmol, 0.18 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 1.2 mmol, 50 mg | [Cl-].[Li+]
catalyst | palladium tetrakis | 0.059 mmol, 68 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-allyl-4-bromo-2-benzofuran-1(3H)-one | C(C=C)C1=C(C2=C(C(OC2)=O)C=C1)Br | C11H9BrO2
